US07569600B2
To a solution of 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (1.312 g, 2.86 mmol) and 1,4-dioxaspiro[4,5]dec-7-en-8-boronic acid (1.066 g, 4.01 mmol) in DMF (12 mL) was added 2M solution of Na2CO3 (6 mL), and the mixture was deoxygenated by bubbling nitrogen through solution for 10 min. Then Pd(PPh3)4 was added to the mixture, and it was heated at 100° C. for 40 min. The mixture was brought to room temperature, diluted with CH2Cl2, acidified with 3N HCl till pH 2-3, and extracted with EtOAc. Organic fraction was washed with NaHCO3 and brine, dried over Na2SO4, concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel using hexanes-EtOAc gradient to afford 1.368 g (92%) of 5-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester as a solid.

reactant | 5-bromo-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 2.86 mmol, 1.312 g | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)Br | C20H28BrNO4S
reactant | 1,4-dioxaspiro[4,5]dec-7-en-8-boronic acid | 4.01 mmol, 1.066 g | O1CCOC12CC=C(CC2)B(O)O | C8H13BO4
reactant | Na2CO3 | 6 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 5-(1,4-dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 1.368 g, 92% | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)[C@@H]1CC[C@H](CC1)O)C1=CCC2(OCCO2)CC1 | C28H39NO6S
